US04472433
Preparation of ethyl 2-[2-nitro-3-(2-chlorophenylthio)phenyl]acetate
A mixture of 2-chlorobenzenethiol (8.0 g.), ethyl 2-(2-nitro-3-chlorophenyl)acetate (12.2 g.), anhydrous potassium carbonate (7.5 g.) and dry dimethylformamide (50 ml.) was stirred for an hour at 85° C. The reaction mixture was poured into water (300 ml.) and extracted with diethyl ether. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. The oily residue was pulverized and recrystallized from methanol (20 ml.) to give the captioned compound (11.6 g.). mp 78° to 80° C.

reactant | 2-chlorobenzenethiol | 8.0 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 12.2 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | ethyl 2-[2-nitro-3-(2-chlorophenylthio)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H14ClNO4S
